US06399629B1
(C) Ethyl 6-Benzylquinoline-3-Carboxylate
A mixture of crude ethyl 6-benzyl-4-chloroquinoline-3-carboxylate (B, 2.77 g), 10% palladium on activated carbon (0.28 g) and triethylamine (2.8 mL) in ethanol (30 mL) was stirred under a hydrogen atmosphere at room temperature for 19 hr. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was diluted with water and extracted with dichloromethane. The organic layer was washed with 10% citric acid, saturated sodium hydrogen carbonate, and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (dichloromethane then dichloromethane:ethyl acetate=50:1 to 20:1, v/v) to afford overreduced compound. The hydroquinoline was dissolved in dichloromethane (30 mL) and activated manganese oxide (0.9 g) was added to the solution. After stirring at room temperature for 20 hr, the mixture was filtered through celite and concentrated in vacuo to afford the title compound (1.85 g) as a pale yellow oil: 1H NMR (400 MHz, CDCl3) δ 1.45 (t, J=6.8 Hz, 3H), 4.19 (s, 2H), 4.47 (q, J=6.8 Hz, 2H), 7.20-7.38 (m, 5H), 7.63-7.72 (m, 2H), 8.97 (d, J=8.8 Hz, 1H), 8.76 (d, J=1.5 Hz, 1H), and 9.39 (d, J=1.5 Hz, 1H); mass spectrum (EI+) m/e 291 (M+); (FAB+) m/e 292 (M+1).

reactant | ethyl 6-benzyl-4-chloroquinoline-3-carboxylate | 2.77 g | C(C1=CC=CC=C1)C=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)Cl | C19H16ClNO2
reactant | triethylamine | 2.8 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium on activated carbon | 0.28 g | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | manganese oxide | 0.9 g | [O-2].[Mn+2]
product | Ethyl 6-Benzylquinoline-3-Carboxylate | 1.85 g | C(C1=CC=CC=C1)C=1C=C2C=C(C=NC2=CC1)C(=O)OCC | C19H17NO2
